US06232430B1
3,5-Dihydroxybenzyl methacrylate (SKMA, step 4)
Concentrated hydrobromic acid (48%, 2.25 ml) was added dropwise to 3,5-di-tert-butyldimethylsilyloxybenzyl methacrylate (15.0 g, 34.4 mmole) and anhydrous potassium fluoride (7.5 g, 129 mmole) in acetonitrile (75 ml). After the solution was stirred overnight at room temperature, hydrochloric acid (4.5 ml conc. HCl in 30 ml of water) and 75 ml of dichloromethane were added to the pink solution. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The organic layers were combined, washed with water and brine. The solution was dried twice over sodium sulfate, filtered over silica and after addition of toluene concentrated in vacuo. The oily residue was dissolved in isopropyl ether (38 ml) and precipitated in hexane (500 ml). The product was filtered off and recrystallized from isopropyl ether/hexane.

reactant | hydrobromic acid | 2.25 ml | Br | BrH
reactant | 3,5-di-tert-butyldimethylsilyloxybenzyl methacrylate | 34.4 mmole, 15.0 g | C(C(=C)C)(=O)OCC1=CC(=CC(=C1)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C23H40O4Si2
reactant | potassium fluoride | 129 mmole, 7.5 g | [F-].[K+]
reactant | hydrochloric acid | 4.5 ml | Cl | ClH
solvent | acetonitrile | 75 ml | C(C)#N | C2H3N
solvent | dichloromethane | 75 ml | ClCCl | CH2Cl2
product | 3,5-Dihydroxybenzyl methacrylate | C(C(=C)C)(=O)OCC1=CC(=CC(=C1)O)O | C11H12O4
